US07166587B2
A solution of 350 mg (1.2 mmol) of (S)-(1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester [Example 56 a)] in 10 ml of N,N-dimethylformamide was treated successively with about 1 g of solid carbon dioxide, 237 mg (1.7 mmol) of bromomethyl-cyclopropane, and 626 mg (1.9 mmol) of cesium carbonate. The reaction mixture was stirred in a sealed flask at 80° C. during the weekend. For the working-up, the solvent was evaporated under reduced pressure and the residue was dissolved in a mixture of 30 ml of ethyl acetate and 10 ml of water. The organic layer was separated, dried over sodium sulphate and evaporated under reduced pressure. For the purification, the crude compound was chromatographed on silica gel using a 3:1-mixture of heptane and ethyl acetate as the eluent. There were obtained 410 mg (87% of theory) of the (S)-3-tert-butoxycarbonylamino-5-methyl-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid cyclopropylmethyl ester as a white gum; MS: m/e=579 (M+OAc)+.

reactant | (S)-(1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester | 1.2 mmol, 350 mg | C(C)(C)(C)OC(N[C@H]1CNC2=C(N(C1=O)C)C=CC=C2)=O | C15H21N3O3
reactant | carbon dioxide | C(=O)=O | CO2
reactant | bromomethyl-cyclopropane | 1.7 mmol, 237 mg | BrCC1CC1 | C4H7Br
reactant | cesium carbonate | 1.9 mmol, 626 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-3-tert-butoxycarbonylamino-5-methyl-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid cyclopropylmethyl ester | 410 mg, 87% | C1(CC1)COC(=O)N1C2=C(N(C([C@H](C1)NC(=O)OC(C)(C)C)=O)C)C=CC=C2 | C20H27N3O5
